data/rdb19/train.csv
rxn,smiles,ea
3005,[C:16]([C:17]([C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:12])([H:8])([H:9])[H:10].[H:11][C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31],26.47031603025971
948,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[H:23])[N:24]([C:25](=[O:26])[H:32])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[H:30],74.94371230748948
3623,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[N:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])[H:33])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:22](=[O:23])[H:34],43.14595977048157
5141,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])[H:37])([H:34])([H:35])[H:36]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:27]([C:26]([C:25]([H:34])([H:35])[H:36])([O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])[H:37])([H:28])[H:29],17.02329520933563
5567,[C:1](=[C:2]([N:3]([C:4]([O:5])([H:10])[C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7]>>[C:1](=[C:2]([N:3]([C:4]([O:5][H:23])([H:10])[C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([N:16][C:17](=[O:18])[H:24])[H:22])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7],9.861468554125167
2237,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:16]([H:28])([H:29])[H:30].[C:1]([C:2]([H:3])([H:4])[C:15]([C:13]([C:11]([O:10][C:9]([C:8]([H:17])([H:18])[H:19])([H:20])[H:21])=[O:12])([C:14]([H:23])([H:24])[H:25])[H:22])([H:26])[H:27])([H:5])([H:6])[H:7],65.04326243390096
1820,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29].[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][C:15]([H:25])([H:26])[H:27],81.14691130188294
3979,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[c:28]1[c:29]([H:39])[c:30]([H:40])[c:31]([H:41])[c:32]([H:42])[c:33]1[H:43])([H:37])[H:38])([H:34])([H:35])[H:36]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])[H:13])([H:10])([H:11])[H:12].[H:14][C:26]([C:25]([C:24]([H:34])([H:35])[H:36])([H:37])[H:38])([H:27])[c:28]1[c:29]([H:39])[c:30]([H:40])[c:31]([H:41])[c:32]([H:42])[c:33]1[H:43],27.56847378058592
204,[C:12]([C:13](=[O:14])[O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:13](=[O:14])[O:15][C:16](=[C:17]([H:22])[H:23])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:12]([H:18])([H:19])[H:20])([H:6])([H:7])[H:8],63.53383969032439
5029,[C:11]([C:12]([C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3]([C:4]([H:9])[H:10])([H:8])[C:13]([C:12]([C:11]([H:21])([H:22])[H:23])([H:24])[H:25])([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:5])([H:6])[H:7],23.511405337019823
